US06358665B1
To a stirred suspension of 4.40 g (20 mmol) of iodosylbenzene in 100 ml of dichloromethane was added dropwise 6.0 g (20 mmol) of nonafluorobutane sulfonic acid at 0° C. under exclusion of moisture. The mixture was stirred at room temperature for 2 hours. The temperature was returned to 0° C. again. 1.84 g (20 mmol) of toluene was added dropwise. After the addition, stirring was continued at room temperature for additional 1 hour. The solvent as evaporated. The oily residue was dissolved in diethyl ether. The solution was cooled to obtain crystals of 4-methylphenyl phenyl iodonium nonafluorobutane sulfonate. The crystals were washed with hexane. The yield was 6.7 g.

reactant | iodosylbenzene | 20 mmol, 4.40 g | I(=O)C1=CC=CC=C1 | C6H5IO
reactant | nonafluorobutane sulfonic acid | 20 mmol, 6.0 g | FC(C(C(C(S(=O)(=O)O)(F)F)(F)F)(F)F)(F)F | C4HF9O3S
reactant | toluene | 20 mmol, 1.84 g | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-methylphenyl phenyl iodonium nonafluorobutane sulfonate | FC(C(C(C(S(=O)(=O)[O-])(F)F)(F)F)(F)F)(F)F.CC1=CC=C(C=C1)[I+]C1=CC=CC=C1 | InChI=1S/C13H12I.C4HF9O3S/c1-11-7-9-13(10-8-11)14-12-5-3-2-4-6-12;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h2-10H,1H3;(H,14,15,16)/q+1;/p-1
